* Title: Lab 1 Circuit

*saving the currents
.options savecurrents

*Netlist
Va 1 0 5.14793149166V 
Id 6 4 1.04178245279m 

R1 1 2 1.00482572563k 
R2 3 2 2.03286190649k 
R3 2 5 3.11785434967k 
R4 0 5 4.11016834747k 
R5 4 5 3.13628987141k 
R6 8 7 2.09741692172k 
R7 7 6 1.03142587047k 

V_ic 0 8 0V


Gib 4 3 (2,5) 7.1972032444m
Hvc 5 6 V_ic 8.17807176177k 

* Control commands
.control

op

echo "********************************************"
echo  Current Values
echo "********************************************"
print @R1[i]
print @R2[i]
print @R3[i]
print @R4[i]
print @R5[i]
print @R6[i]
print @R7[i]

echo "********************************************"
echo  Voltage Values
echo "********************************************"
print v(1)
print v(2)
print v(3)
print v(4)
print v(5)
print v(6)
print v(7)
print v(8)

echo  "op_TAB"
print all
echo Vb
print v(2,5)
echo Vc
print v(5,6)
echo  "op_END"

echo "********************************************"
echo  Vb
print v(2,5)
echo "********************************************"
echo  Vc
print v(5,6)
echo "********************************************"
echo  Ic
print @R7[i]
echo "********************************************"
echo  Ib
print @R2[i]
echo "********************************************"



quit

.endc

.end
